2197-08-31 04:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2197-8-30**]:  Transfused 1 unit pRBCs with appropriate Hct bump from 28.6
   to 31.  Patient's Foley clotted off in the early afternoon.  Manual
   irrigation did not work.  Urology was contact[**Name (NI) **] and they suggested
   changing the Foley from the regular 16 French to 20 French 3-way.  This
   was done and he started draining tea-colored urine after manual
   irrigation.  If it clots off again, manual irrigation will be re-tried
   and if that doesn't work CBI will be started.  GI consulted about GI
   bleed from radiation proctitis.  They would like to try Carafate enemas
   (2 grams twice daily-will take effect after 4-6 weeks) first to try to
   soothe the colitis.  Will have to call pharmacy to get these enemas
   because they are not on formulary.  If this does not work, they will
   perform a flex sig with argon laser coagulation of bleeding colitis
   (likely Friday per cardiac recs for post MI procedures unless patient
   begins having more significant bleed). Make sure to inform GI one day
   before if we want to do procedure so they can put him on schedule.
   -@10PM: Patient's systolic BP dipped to 70s after dosing metoprolol.
   Given 250cc bolus.
   -@11:30PM: Patient's systolic again in 70s with HR irregular and in the
   140s-150s.  Given 250cc bolus.
   -@1:30AM: SBP in 100s, lungs clear, given another 250cc bolus to
   increase pressure in order for rate control to be started with
   diltiazem 10mg IV once. Did not work, HR still up to 150s.  No active
   GI bleeding since this AM, hematuria resolved.
   -@3:50AM: another 250cc bolus for refractory Afib.  given amiodarone
   150mg IV bolus-> still fast rate but improved BP.
   Allergies:
   Penicillins
   Unknown;
   Persantine (Oral) (Dipyridamole)
   Unknown;
   Allopurinol
   Lightheadedness
   Cipro I.V. (Intraven) (Ciprofloxacin Lactate)
   Rash; itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2197-8-31**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-8-31**] 04:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 139 (86 - 146) bpm
   BP: 87/38(50) {65/25(31) - 137/79(78)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 118 kg (admission): 116.1 kg
             Total In:
                                                                  2,245 mL
                                                                    620 mL
   PO:
                                                                    470 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,050 mL
                                                                    500 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  2,410 mL
                                                                    470 mL
   Urine:
                                                                  2,410 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -165 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   GENERAL: WDWN male in no apparent distress. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa
   NECK: Supple with no JVP.
   CARDIAC:  normal S1, S2. No m/r/g appreciated. No thrills, lifts. No S3
   or S4.
   LUNGS:  Decreased bs at bases.  Mildly coarse breath sounds.
   ABDOMEN: Soft, obese. gauze covering umbilicus and three other areas
   over RUQ and epigastric area. BS present x 4,
   EXTREMITIES: No c/c/e. No femoral bruits.  Cath site shows no sign of
   hematoma, erythema.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Popliteal 2+ DP 2+ PT 2+
   Left:  Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   119 K/uL
   10.1 g/dL
   166 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.9 mEq/L
   24 mg/dL
   102 mEq/L
   138 mEq/L
   30.5 %
   9.2 K/uL
        [image002.jpg]
                             [**2197-8-28**]  09:54 PM
                             [**2197-8-29**]  04:14 AM
                             [**2197-8-29**]  01:23 PM
                             [**2197-8-29**]  05:57 PM
                             [**2197-8-29**]  11:27 PM
                             [**2197-8-30**]  05:49 AM
                             [**2197-8-30**]  12:10 PM
                             [**2197-8-30**]  04:49 PM
                             [**2197-8-31**]  01:37 AM
   WBC
   10.9
   9.9
   8.5
   9.1
   9.2
   Hct
   29.1
   29.6
   28.6
   29.2
   31.6
   28.6
   31.0
   30.5
   Plt
   151
   156
   139
   130
   147
   119
   Cr
   1.4
   1.4
   1.2
   1.2
   1.2
   TropT
   0.27
   3.88
   Glucose
   [**Telephone/Fax (3) 8339**]57
   166
   Other labs: PT / PTT / INR:13.1/25.1/1.1, CK / CKMB /
   Troponin-T:708/26/3.88, Fibrinogen:444 mg/dL, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   The patient is a 74 year old man with diabetes, coronary artery
   disease, presenting with chest pain and ekg changes in the setting of
   hypertension while recovering from laparoscopic cholecystectomy, now
   s/p thrombectomy with DES to LCX at cath lab.
   .
   # CORONARIES: History of significant coronary artery disease s/p
   multiple percutaneous coronary interventions.  Current chest pain
   accompanied by ekg changes and new depressed ejection fraction, along
   with posterior wall hypokinesis.  The chest pain was in the setting of
   urinary retention and hypertension, and was relieved with nitro and
   foley placement.  In addition, ekg changes resolved with resolution of
   chest pain.  At the time patient thought to either have demand ischemia
   vs. acute coronary syndrome.  However, his cardiac enzymes are
   consistent with active ischemia (CK1868/CKMB143/Trops 3.88).  Likely
   c/w LCX or PAD.  Continued on heparin drip, aspirin, plavix,
   metoprolol.  Now s/p thrombectomy with DES to LCX at cath lab.
   -aspirin 325mg indefinitely
   -plavix 75 mg for at least 1 year
   -now off integrilin (d/c
d early secondary to blood per rectum)
   -holding home dose of metoprolol now given multiple hypotensive
   episodes
   .
   # Acute blood loss: had frank blood in cathether yesterday as well as
   continued clots per rectum.  GI came and evaluated patient- recommended
   carafate enemas and flex sig on Friday.  Bleeding improved overnight-
   no frank blood in catheter this AM.
   -received 2U pRBCs on [**8-29**] (Hct improved from 28.6 to 31.6)
   -stable at 30.5 tonight.
   -re-check Hct at 3PM
   -remove foley this AM
   .
   # Cholecystectomy: POD 2.  Elevated white count s/p procedure. Surgery
   following. will advance diet to low fat.
   -stable WBC this AM (9.2)
   .
   # Hypertension:
   - give metoprolol 12.5mg [**Hospital1 **] today
   -monitor pressures
   -restart home dose meds when BP return to baseline
   .
   # Acute Systolic Congestive heart failure: Monitor fluid status and
   continue home dose lasix.
   - hold home metoprolol and valsartan for now.
   .
   # Atrial Fibrillation: Holding coumadin in setting of possible cardiac
   catheterization.  continue and metoprolol.
   -amiodarone gtt at 1mg
   -decrease amiodarone to .5mg for 18hrs.  After 24hrs, switch to PO
   amiodarone
   -INR is trending down
   .
   # Diabetes mellitis: insulin sliding scale, holding glipizide
   -Glucose levels better controlled this AM
   .
   # Parkinson's disease: continue seligiline
   .
   # Gout: Will restart colchicine today.
   .
   # Migraine and cluster headaches: dilaudid.
   .
   # Deconditioning
   -PT consulted yesterday- recs pending
   .
   # Flatus
   -simethicone 40-80mg PO QID:PRN flatus
   .
   FEN: cardiac healthy diet resumed today
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin IV
   -Pain management with dilaudid
   -Bowel regimen with colace, senna
   .
   CODE: Presumed full
   .
   COMM: [**Name (NI) **] [**Name (NI) 8324**] wife, [**Telephone/Fax (1) 8325**] home, [**Telephone/Fax (1) 8326**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-8-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1714**] [**Name (NI) 4235**],MD
   on:[**2197-9-1**] 08:47 ------